US04256739
A solution of 50.6 g (98 mmols) of 7β-phenoxyacetylamino-3-hydroxy-3-cephem-4-carboxylic acid diphenylmethyl ester in 500 ml of methylene chloride is cooled to -20° C. and, after adding 14 ml of methanesulphonyl chloride (142 mmols), 22.3 ml (142 mmols) of triethylamine are added slowly. After a reaction period of 1 hour at -15° C. to -20° C. under nitrogen, the solution is washed with water, aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution. The organic phase is dried over sodium sulphate, concentrated in a rotary evaporator and dried under a high vacuum. A mixture consisting of 7β-phenoxyacetylamino-3-methanesulphonyloxy-3-cephem-4-carboxylic acid diphenylmethyl ester and 7β-phenoxyacetylamino-3-methanesulphonyloxy-2-cephem-4-carboxylic acid diphenylmethyl ester is obtained; thin layer chromatogram (silica gel; toluene/ethyl acetate, 2:1), 3-cephem derivative Rf=0.39; 2-cephem derivative Rf=0.32.

reactant | 7β-phenoxyacetylamino-3-hydroxy-3-cephem-4-carboxylic acid diphenylmethyl ester | 98 mmols, 50.6 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)O | C28H24N2O6S
reactant | methanesulphonyl chloride | 142 mmols, 14 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 142 mmols, 22.3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 7β-phenoxyacetylamino-3-methanesulphonyloxy-2-cephem-4-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1C(=CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)OS(=O)(=O)C | C29H26N2O8S2
